Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],4.30190955938
[O:1][C@@:2]1([H:3])[C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11],-0.238752739921
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9],-3.63181602847
[C:7][O:8][H:9].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-4.517339188969999
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.45448878339
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[C:2]#[C:3][C:4]([H:5])[C:7]#[C:8][H:9].[H:1][C:6][H:10],7.562550740630001
[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.75262033755
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:4],2.23893642221
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8]>>[C:1][C:2][O:3].[C:4](#[C:5][H:6])[O:7][H:8],-1.23891327169
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7].[H:8]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-3.9567604714
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[O:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-0.30573658805
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],3.72749742823
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],1.94389595266
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],5.0197731541
[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7].[C:8]([H:9])([H:10])[H:11],3.45640273958
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.235546305380001
[O:1]=[C:2]=[C:3][C:4][O:5][H:6]>>[C:4][O:5][H:6].[O:1][C:2][C:3],5.496765333169999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.83023162301
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4],-0.41050242372
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-2.76987524511
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-0.44134157208
[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.000762122619999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.98252963794
[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:4][C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15].[H:1][C:3][C:8]([H:9])([H:10])[H:11],4.77375221387
[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.747591355389999
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.129960555619999
[H:1][C:2]#[C:3][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.66119118811
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][O:6],3.50834467481
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10][H:11],5.0597886473
[H:1][C:2]([H:3])[C:4]#[C:5]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.8141215954300014
